Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
hemoptysis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
PCP: 
Name: ___. 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

Admission ___ 0230

CC:hemoptysis

___ yo M w/ metastatic RCC (lungs, brain, spine) and 
permanent tracheostomy on coumadin (last INR 2.8) p/w 
hemoptysis. Had blood-streaked mucous in trach 2 days ago, 
resolved with washing. Today, while using nebs had "globs" of 
bloody mucous emerge from trach. No f/c/cough. No BRBPR, melena, 
hematuria, dysuria, HA, CP, SOB. 

In ER: (Triage Vitals:97.6 90 145/84 18 97) Exam non-focal, CXR 
- diffuse metatstic disease. Hct 47, vitals stable. Admitted for 
serial HCT and monitoring.

ROS:  
-Constitutional: [x]WNL []Weight loss []Fatigue/Malaise []Fever 
[]Chills/Rigors []Nightweats []Anorexia  
-Eyes: []WNL []Blurry Vision []Diplopia []Loss of Vision 
[]Photophobia  
-ENT: [x]WNL []Dry Mouth []Oral ulcers []Bleeding gums/nose 
[]Tinnitus []Sinus pain []Sore throat  
-Cardiac: [x]WNL []Chest pain []Palpitations ___ edema 
[]Orthopnea/PND []DOE  
-Respiratory: [x]WNL []SOB []Pleuritic pain []Hemoptysis []Cough 
 
-Gastrointestinal: [x]WNL []Nausea []Vomiting []Abdominal pain 
[]Abdominal Swelling []Diarrhea []Constipation []Hematemesis 
[]Hematochezia []Melena  
-Heme/Lymph: []WNL []Bleeding []Bruising []Lymphadenopathy  
-GU: [x]WNL []Incontinence/Retention []Dysuria []Hematuria 
[]Discharge []Menorrhagia  
-Skin: [x]WNL []Rash []Pruritus  
-Endocrine: []WNL []Change in skin/hair []Loss of energy 
[]Heat/Cold intolerance  
-Musculoskeletal: [x]WNL []Myalgias []Arthralgias []Back pain  
-Neurological: [x ]WNL []Numbness of extremities []Weakness of 
extremities []Parasthesias []Dizziness/Lightheaded []Vertigo 
[]Confusion []Headache  

 
Past Medical History:
PMHx
Bilateral PEs, hypertension, BPH,
history of colonic adenomas, history of pancreatic cysts,
renal cell carcinoma, see below.

Onc history
His oncological problem began in ___ with hematuria and left
flank pain.  A left kidney mass was found and he underwent a 
left
radical nephrectomy.  The pathology was clear cell carcinoma
(when reviewed here at ___, it
was noted as chromophobe type).  He was doing fine until 
___ when pulmonary metastases were discovered on routine
surveillance CT of the torso.  He underwent video-assisted
thoracoscopic surgery for resection of pulmonary metastases at
the ___ in ___ and ___.  In
___, he developed bilateral pulmonary embolism and he
has been on Coumadin since then.  He was treated with 2 cycles 
of
IL-2, one in ___ and another in ___.  In 
___, he experienced breathing difficulty and a metastasis in 
the
larynx and subglottic region was found.  The subglottic mass was
resected and he has a tracheomstomy.  The pathology of the
subglottic mass was renal cell carcinoma.  A staging head MRI on
___ showed a homogeneously enhancing mass in the posterior
right temporal lobe.  He underwent Cyberknife radiosurgery to a
solitary metastasis in the left posterior temporal lobe on
___ to 2200 cGy at 78% isodose line.  He then started 
Sutent
on ___ to ___.

 
Social History:
___
Family History:
no Fhx renal cancer
 
Physical Exam:
Admission
VS: 97.0 142/80 78 20 94RA
Gen: Well appearing, no acute distress, awake, alert, 
appropriate, and oriented x 3 
Skin: warm to touch, no apparent rashes. 
HEENT: No conjunctival pallor, no scleral jaundice, PERRLA,  OP 
clear, no cervical LAD, trach with crusted blood. sputum 
observed with very slight pink tinge.
CV:  RRR no audible m/r/g, pulses 2+, no ___ edema
Lungs: scattered rhonchi
Abd: soft, NT, normal BS 
Ext: No C/C/E
Neuro:  strength and sensation intact bilaterally. 

 
Pertinent Results:
___ 09:34PM   K+-3.7
___ 09:34PM   HGB-15.8 calcHCT-47
___ 09:25PM   GLUCOSE-125* UREA N-20 CREAT-1.0 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-105 TOTAL CO2-24 ANION GAP-13
___ 09:25PM   CALCIUM-8.6 PHOSPHATE-2.6* MAGNESIUM-2.0
___ 09:25PM   WBC-6.0 RBC-4.25* HGB-14.5 HCT-41.8 MCV-98 
MCH-34.2* MCHC-34.8 RDW-15.1
___ 09:25PM   NEUTS-62.6 ___ MONOS-9.0 EOS-1.1 
BASOS-0.6
___ 09:25PM   PLT COUNT-244
___ 09:25PM   ___ PTT-26.8 ___

CXR
IMPRESSION: 
1. Innumerable bilateral pulmonary nodules, better assessed on 
recent CT, 
increased since ___. No pleural effusion seen. 
2. Borderline to mildly enlarged cardiac silhouette. 

___ 06:40AM BLOOD WBC-4.7 RBC-4.07* Hgb-14.2 Hct-39.3* 
MCV-97 MCH-34.9* MCHC-36.1* RDW-13.8 Plt ___
___ 07:10AM BLOOD ___ PTT-26.7 ___
___ 06:40AM BLOOD Glucose-107* UreaN-15 Creat-1.0 Na-140 
K-4.1 Cl-106 HCO3-26 AnGap-___ s/p tracheostomy with renal cell CA met to lungs p/w 
hemoptysis. There was no recent deep suctioning and no 
supratheraputic INR. Pt was admitted to medicine service for 
close monitoring. He was continued on his Coumadin, as the 
bleeding has appeared to stabilize, his CXR did not show 
evidence of gross hemorrhage, his breathing has remained stable 
without SOB. His routine of induced cough to clear secretions 
was held initially to allow further stabilization of the site of 
bleeding, which may be due to lung metastasis and trauma from 
cough. He was treated with humidified oxygen. During the 
hospitalization, he did cough up an additional small amount of 
blood, but the blood did not appear to be very new, and was 
mixed with sputum, likely from the prior bleed. He did feel that 
he was becoming congested, after skipping his routine of induced 
cough, so he performed his induced cough routine while monitored 
in the hospital to ensure safety. With this, he coughed up a 
large, thick sputum, with NO blood present.  Pt was encouraged 
to decrease this routine from BID to q day for the next few days 
while the bleed site further stabilizes, and he was instructed 
to return to the hospital emergently if he has an episode of 
rebleed. He has follow up with Oncology scheduled for ___.  
.  
If he has a significant rebleed, with gross hemoptysis, he may 
require either brochoscopy and/or ___ embolization.  
.  
Secondary Diagnosis: 189.0 MALIGNANT NEOPLASM, KIDNEY  
Secondary Diagnosis: ___ METASTASIS TO LUNG  
- continue outpatient follow up with Oncology  
.  
FULL CODE  
Disp: Discharge to home with Oncology outpatient follow up.  

 
Medications on Admission:
DIPHENHYDRAMINE HCL -  (Prescribed by Other Provider) - 25 mg
Capsule - ___ Capsule(s) by mouth at bedtime as needed
FINASTERIDE [PROSCAR] -  (Prescribed by Other Provider) - 5 mg
Tablet - 1 Tablet(s) by mouth once a day
GABAPENTIN -  (Prescribed by Other Provider) - 300 mg Capsule 
twice a day and 500mg at bedtime
METOPROLOL TARTRATE - 50 mg Tablet - 1 Tablet(s) by mouth twice 
a
day
OMEPRAZOLE -  (Prescribed by Other Provider) - 20 mg Capsule,
Delayed Release(E.C.) - 1 Capsule(s) by mouth twice daily
TERAZOSIN [HYTRIN] -  (Prescribed by Other Provider) - 5 mg
Capsule - 1 Capsule(s) by mouth
TRAZODONE -  (Prescribed by Other Provider) - 50 mg Tablet - 1
Tablet(s) by mouth at bedtime
VALSARTAN [DIOVAN] - 80 mg Tablet - 1 Tablet(s) by mouth daily
WARFARIN -  (Prescribed by Other Provider) - 7.5 mg Tablet - 1
Tablet(s) by mouth  pt alternates daily 7.5 and 10 mg dosing

 
Discharge Medications:
1. Diphenhydramine HCl 25 mg Capsule Sig: ___ Capsules PO HS (at 
bedtime) as needed for insomnia.  
2. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Gabapentin 100 mg Capsule Sig: Five Hundred (500) mg PO HS 
(at bedtime): prescribed by other provider.  
5. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
7. Terazosin 5 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
8. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
9. Valsartan 80 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
10. Warfarin 2.5 mg Tablet Sig: as directed by ___ clinic 
Tablet PO Once Daily at 4 ___: Patient alternates between 7.5 mg 
and 10 mg po q daily.
Please follow up with your ___ clinic. Maintain INR ___.  
11. Cortisone 1 % Cream Sig: One (1) Appl Topical TID (3 times a 
day) as needed for trach irritation.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Hemoptysis
# Renal Cell carcinoma with metastasis to lungs, bone, brain
# History of prior pulmonary embolism; on coumadin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital due to coughing up blood. You 
were monitored closely, especially considering that you are on 
Coumadin, and you did not have any significant new bleeding.  
Please be careful with your induced cough, as we discussed, to 
avoid further bleeding. Please reduce this to only once daily 
for the next 5 days, and with cautious intensity.  Please follow 
up with your Oncologist to determine if further evaluation or 
managemetn is necessary. Please seek immediate medical attention 
if you have further episodes of coughing up blood, especially if 
the blood appears fresh and/or if it is in increasing 
quantities, or if you feel short of breath or chest pains.  You 
may continue to cough up old, thick, darker blood from your 
prior bleed, and this is OK as long as the quantity is small and 
decreasing in amount.
.
Please follow up closely with your ___ clinic to make sure 
that your INR remains in the therapeutic range, and please be 
careful to avoid INR > 3.
 
Followup Instructions:
___